US08404859B2
Preparation of (S)-2-[(2-tert-Butoxycarbonylamino-4-trifluoromethyl-thiazole-5-carbonyl)-amino]-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester
A stirred solution of (S)-3-tert-Butoxycarbonylamino-2-[(2-tert-butoxycarbonylamino-4-trifluoromethyl-thiazole-5-carbonyl)-amino]-propionic acid methyl ester (10.67 g, 20.82 mmol) in methanol (80 mL) was treated with the 4 M HCl in Dioxane (50 mL, 200 mmol) and reaction was heated at 40° C. for 45 min. The resultant intermediate was concentrated to give a pale yellow foam oil. A solution of this material in DMF (150 mL) was treated with the HBTU (9.6 g, 25.31 mmol), HOBt (3.5 g, 25.90 mmol), 2-thiophenecarboxylic acid (2.9 g, 22.63 mmol) and the triethylamine (19 mL, 136.3 mmol) and stirred at room temp for 2 h. The reaction was then concentrated to remove DMF, followed by dilution with water (300 mL), and extracted with ethyl acetate (1×300 mL, 1×100 mL). The combined organic layers washed with water (3×100 mL) followed by aq sat sodium bicarbonate solution (3×100 mL), water (2×100 mL), brine (100 mL), dried over magnesium sulfate, filtered, concentrated to give (9.41 g) as crude product. Column purification The solid residue was purified by flash column (20-80 EtOAc in hexane) to give 10.2 g (98%) of yellow oil. MS m/e 523.5 (M+H+).

reactant | (S)-3-tert-Butoxycarbonylamino-2-[(2-tert-butoxycarbonylamino-4-trifluoromethyl-thiazole-5-carbonyl)-amino]-propionic acid methyl ester | 20.82 mmol, 10.67 g | COC([C@H](CNC(=O)OC(C)(C)C)NC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)C(F)(F)F)=O | C19H27F3N4O7S
reactant | HCl | 4 M | Cl | ClH
reactant | Dioxane | 200 mmol, 50 mL | O1CCOCC1 | C4H8O2
reactant | HBTU | 25.31 mmol, 9.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 25.90 mmol, 3.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-thiophenecarboxylic acid | 22.63 mmol, 2.9 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | triethylamine | 136.3 mmol, 19 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 80 mL | CO | CH4O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (S)-2-[(2-tert-Butoxycarbonylamino-4-trifluoromethyl-thiazole-5-carbonyl)-amino]-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 10.2 g, 98% | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)C(F)(F)F)=O | C19H21F3N4O6S2
